US07179801B2
To a solution of 3-(5-amino-1-methylpyrazol-4-yl)propylamine dihydrochloride (9.3 g, 40 mmol) in methanol (80 ml) was added 28% sodium methoxide solution in methanol (15.9 g). The mixture was filtered through Celite, and the filtrate was concentrated in vacuo. A solution of the oily residue in ethyl formate (60 g) was stirred under reflux for 20 hours. After cooling, to the reaction mixture was added chloroform. The mixture was filtered through Celite, and the filtrate was concentrated in vacuo. The residue was triturated with ethyl acetate and dried in vacuo to give N-[3-(5-amino-1-methylpyrazol-4-yl)propyl]formamide (6.7 g) as a solid.

reactant | 3-(5-amino-1-methylpyrazol-4-yl)propylamine dihydrochloride | 40 mmol, 9.3 g | Cl.Cl.NC1=C(C=NN1C)CCCN
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
solvent | methanol | 15.9 g | CO | CH4O
product | N-[3-(5-amino-1-methylpyrazol-4-yl)propyl]formamide | 6.7 g | NC1=C(C=NN1C)CCCNC=O | C8H14N4O
